US07115749B2
To an ice cold mixture of 50 mg (0.21 mmol) of 1-Ethoxycarbonylmethyl-5-hydroxy-1H-pyrazole-3-carboxylic acid ethyl ester in 2 mL of tetrahydrofuran was added 49 mg (0.25 mmol) of neopentyl alcohol, 108 mg (0.41 mmol) of triphenylphosphine, followed by 0.081 mL (0.41 mmol) of diisopropyl azodicarboxylate (DIAD) and the mixture was allowed to warm up to rt and stirred at rt overnight. The reaction mixture was then concentrated and the residue was chromatographed on silica gel (3:1 hexane:ethyl acetate) to give 46 mg (70%) of 5-(2,2-dimethyl-propoxy)-1-ethoxycarbonylmethyl-1H-pyrazole-3-carboxylic acid ethyl ester LC-MS calcd. for C15H24N2O5 [M++H]: 313.2; found: 313.2.

reactant | 1-Ethoxycarbonylmethyl-5-hydroxy-1H-pyrazole-3-carboxylic acid ethyl ester | 0.21 mmol, 50 mg | C(C)OC(=O)C1=NN(C(=C1)O)CC(=O)OCC | C10H14N2O5
reactant | neopentyl alcohol | 0.25 mmol, 49 mg | C(C(C)(C)C)O | C5H12O
reactant | triphenylphosphine | 0.41 mmol, 108 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.41 mmol, 0.081 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 5-(2,2-dimethyl-propoxy)-1-ethoxycarbonylmethyl-1H-pyrazole-3-carboxylic acid ethyl ester | 46 mg, 70% | C(C)OC(=O)C1=NN(C(=C1)OCC(C)(C)C)CC(=O)OCC | C15H24N2O5
